US06107291
Preparation of 1-(4-Methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2,3-dicarboxylic acid 3-benzyl ester 2-tert-butyl ester
2-Allyl-3-(allyl-(4-methoxy-benzenesulfonyl)-amino)-succinic acid 1-benzyl ester 4-tert-butyl ester (5.5 g, 10.4 mmol) are solved in 40 ml Dichloromethane and deoxygenated and flushed with Argon three times. The catalyst (RuCl2 (PCy3)2 =--Ph) (100 mg, 0.12 mmol) is added and the reaction is deoxygenated and flushed with Argon one more time. The reaction solution is stirred for 7 h at room temperature. Another (90 mg, 0.11 mmol) of the Ruthenium catalyst are added and the reaction is stirred over night. Evaporation of the solvent followed by flash-chromatography, Hexane/Ethylacetate (3:1) afforded the product: 1H NMR (CDCl3 400 Mhz), ppm: 7.81 (d, 2H), 7.37 (m, 5H), 6.93 (d, 2H), 5.60 (m, 2H), 5.10 (m, 3H), 4.18 (dd, 1H), 4.05 (dd, 1H), 3.88 (s, 3H), 3.20 (ddd, 1H), 2.68 (m, 2H), 1.32 (s, 9H).

reactant | 2-Allyl-3-(allyl-(4-methoxy-benzenesulfonyl)-amino)-succinic acid 1-benzyl ester 4-tert-butyl ester | 10.4 mmol, 5.5 g | C(C)(C)(C)OC(C(C(C(=O)OCC1=CC=CC=C1)CC=C)N(S(=O)(=O)C1=CC=C(C=C1)OC)CC=C)=O | C28H35NO7S
solvent | Dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | Ruthenium | 0.11 mmol, 90 mg | [Ru] | Ru
product | 1-(4-Methoxy-benzenesulfonyl)-2,3,4,7-tetrahydro-1H-azepine-2,3-dicarboxylic acid 3-benzyl ester 2-tert-butyl ester | C(C)(C)(C)OC(=O)C1N(CC=CCC1C(=O)OCC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C26H31NO7S
